US04182872
2,3,4,4a-Tetrahydro-8-Trifluoromethyl-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 7.5 g. of 4-carbobenzoxy-1-(4-trifluoromethyl-2-nitrophenyl)piperazine-2-carboxylic acid, 4.0 g. of potassium bicarbonate, 150 ml. of water and 50 ml. of ethanol is hydrogenated over three teaspoons of Raney nickel catalyst at 50 p.s.i. for 45 minutes. The catalyst is filtered and the filtrate is acidified and extracted with ethylacetate. The aqueous phase is then basified with dilute sodium hydroxide and extracted with ethyl acetate. Concentration of the organic phase gives 1.2 g. of pale yellow solid product, m.p. 193°-195°. This solid is converted to its hydrogen chloride salt in ethanol giving 0.78 g., m.p. 275°-277° dec.

reactant | 4-carbobenzoxy-1-(4-trifluoromethyl-2-nitrophenyl)piperazine-2-carboxylic acid | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C(=O)O | C20H18F3N3O6
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | water | O | H2O
catalyst | Raney nickel | three teaspoons | [Ni] | Ni
solvent | ethanol | 0.78 g | C(C)O | C2H6O
product | 2,3,4,4a-Tetrahydro-8-Trifluoromethyl-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | FC(C=1C=C2NC(C3N(C2=CC1)CCNC3)=O)(F)F | C12H12F3N3O
